US03956348
2.0 g. of 1-methoxy-17,17-ethylenedioxy-4-methyl-1,3,5(10)-estratriene is heated for 24 hours under reflux and nitrogen purging in 20 ml. of toluene with 25 ml. of diethylaluminum hydride (20% in toluene). The reaction mixture is decomposed and worked up as described in Example 3. The dried residue is extracted with a methylene chloride-methanol mixture (1:1), concentrated to dryness under vacuum, and crystallized from hexane. After recrystallization from methylene chloride-isopropyl ether with carbon, 1.57 g. of 4-methyl-1,3,5(10)-estratriene-1,17β-diol, m.p. 226°-229° C., is obtained. [α]D = +177.9° (dioxane); ε280 = 1930.

reactant | 1-methoxy-17,17-ethylenedioxy-4-methyl-1,3,5(10)-estratriene | COC1=CC=C(C=2CC[C@H]3[C@@H]4CCC5([C@@]4(C)CC[C@@H]3C12)OCCO5)C | C22H30O3
reactant | diethylaluminum hydride | [H-].C(C)[Al+]CC
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 4-methyl-1,3,5(10)-estratriene-1,17β-diol | CC=1C=2CC[C@H]3[C@@H]4CC[C@@H]([C@@]4(C)CC[C@@H]3C2C(=CC1)O)O | C19H26O2
